US05118686
6-Amino-2-(2-propoxyphenyl)pyrimidin-4[3H]-one
Ethyl cyanoacetate (4.52 g) was added to a stirred solution of 2-propoxybenzamidine in ethanol (prepared from sodium, 1.84 g., in ethanol, 100 ml, and 2-propoxybenzamidine methanesulphonate, 11.61 g). The reaction mixture was stirred at ambient temperature for 18 hours and then evaporated under reduced pressure to leave a residue which was dissolved in water. The aqueous solution was extracted with diethyl ether (2×25 ml) and the combined ether extracts were washed with water. The combined aqueous phase was treated with glacial acetic acid to pH 5 to precipitate a crude product. Further crude product was obtained by extracting the ether extracts with 1 normal sodium hydroxide (2×30 ml) and acidifying the combined alkaline extracts with glacial acetic acid to pH 5. The combined crude product was recrystallised from isopropanol to yield the title compound, 2.34 g, m.p. 183.5°-184.5° C.

reactant | Ethyl cyanoacetate | 4.52 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 2-propoxybenzamidine | C(CC)OC1=C(C(=N)N)C=CC=C1 | C10H14N2O
solvent | ethanol | 100 ml, 1.84 g | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-Amino-2-(2-propoxyphenyl)pyrimidin-4[3H]-one | NC1=CC(NC(=N1)C1=C(C=CC=C1)OCCC)=O | C13H15N3O2
